US04883868
To 15 g (37 mM) of p-methoxybenzyl 7-amino-3-chloromethyl-3-cephem-4-carboxylate hydrochloride, 500 ml of ethyl acetate and 100 ml of water were added. Under cooling with ice, the mixture was adjusted to pH 7.5 with a 1N sodium hydroxide aqueous solution and dissolved. The organic layer was separated, washed with a saturated sodium chloride aqueous solution, and then concentrated under reduced pressure. The oily residue was dissolved in 150 ml of methylene chloride. To this solution, a mixed anhydride solution prepared from 4.8 ml (127 mM) of 99% formic acid and 12 ml (127 mM) of acetic anhydride, was dropwise added under cooling with ice, and the mixture was stirred for 2 hours. The reaction solution was concentrated under reduced pressure. To the residue, 300 ml of ethyl acetate, 300 ml of tetrahydrofuran and 100 ml of water were added, and the mixture was adjusted to pH 7.5 with a 1N sodium hydroxide aqueous solution. The organic layer was separated, and washed with a saturated sodium chloride aqueous solution. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure to obtain 14.5 g (yield: 99%) of p-methoxybenzyl 3-chloromethyl-7-formamido-3-cephem-4-carboxylate.

reactant | p-methoxybenzyl 7-amino-3-chloromethyl-3-cephem-4-carboxylate hydrochloride | 37 mM, 15 g | Cl.NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OCC2=CC=C(C=C2)OC)C1=O
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | p-methoxybenzyl 3-chloromethyl-7-formamido-3-cephem-4-carboxylate | 14.5 g, yield: 99% | ClCC=1CS[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)OC)C(C2NC=O)=O | C17H17ClN2O5S
